Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
balance difficulties and leg numbness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The pt is a ___ year-old R-handed W w/ hx of MS who presents with 
worsening leg weakness, blurred vision, fatigue and gait 
instability. She states that she has had worsening ___ weakness 
and difficulty with balance over the past 6mo (prior to this, 
was able to go on hikes and long walks). Her ___ weakness has 
been getting progresively worse and significantly worsened ~ 1mo 
ago. She was seen by her neurologist and was treated w/ 5 days 
of 1g methylprednisone ___. With this treatment it appears 
that her vision has improved, however there was no apparent 
change in her weakness. In fact, since completion of steroids, 
her ___ weakness has deteriorated further, with an acute change 
over the past 3 days. She describes this as mostly L foot drop. 
1mo ago, she as able to walk ___ and ~ ___ yards and now 
she is able to stand only ___ yards.  

She was seen by Dr. ___ on day of admission and was referred 
for an elective admission for an MS flare. She underwent 
laboratory studies including CBC, BMP, UA which were negative. 
Reportedly had a CXR, which was negative for acute thoracic 
process.
  
On neuro ROS, she endorses urinary incontinence for ___ years. She 
has had numbness of her throat, lasting 2 days, resolved 3 days 
ago. Endorses worsening fatigue. She reports chronic mild HAs 
she has had for years, as well as episode of diplopia 3mo ago. 
She denies pain on eye movements, dysarthria, dysphagia, 
lightheadedness, vertigo. Denies difficulties producing or 
comprehending speech. Denies focal numbness, parasthesiae.  
 
On general review of systems reportds non-productive cough, post 
nasal drip, but no sinus tendernes x 2 days. Denies recent fever 
or chills. No weight loss or gain. No shortness of breath. 
Denies chest pain or tightness, palpitations. Denies nausea, 
vomiting, diarrhea, constipation or abdominal pain. No dysuria. 
Denies arthralgias or myalgias. Denies rash.  
 
Past Medical History:
- MS, dx ___  
- GERD  
- Lumbar disc disease L3-5  

 
Social History:
___
Family History:
NC, no CVA, Sz, CA, MS. 
 
___ Exam:
Vitals: T: 97.5F P:61 R: 16 BP:108/61 SaO2:98%RA  
General: Awake, cooperative.  
HEENT: NC/AT, no scleral icterus noted, MMM  
Neck: Supple, no meningismus.  
Pulmonary: Lungs CTA bilaterally  
Cardiac: RRR, nl. S1S2, no M/R/G noted  
Abdomen: soft, NT/ND, normoactive bowel sounds, no suprapubic 
tenderness.  
Extremities: No edema, warm, 2+ DP pulses bilaterally.  
Skin: no rashes or lesions noted.  
 
Neurologic:  
-Mental Status:  
Alert, oriented x 3. Able to relate history without difficulty. 
Attentive, able to name ___ backward without difficulty.  
Language is fluent with intact repetition and comprehension. 
Normal prosody. There were no paraphasic errors. Pt. was able to 
name both high and low frequency objects. Able to read without 
difficulty. Speech was not dysarthric. Able to follow both 
midline and appendicular commands. Pt. was able to register 3 
objects and recall ___ at 5 minutes. The pt. had good knowledge 
of current events.  
There was no evidence of apraxia or neglect.  
 
-Cranial Nerves:  
I: Olfaction not tested.  
II: PERRL 4 to 2mm and brisk. VFF to confrontation.  
III, IV, VI: EOMI without nystagmus. Saccades overshoot 2bts.  
V: Facial sensation intact to light touch.  
VII: No facial droop, facial musculature symmetric.  
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally.  
XII: Tongue protrudes in midline.  
 
-Motor: Normal bulk, tone throughout.  
No adventitious movements, such as tremor, noted. No asterixis 
noted.  
 
  Delt Bic Tri WrE FFl FE IP Quad Ham TA ___  
L  4+  4+  4+  4+  ___- 4+   4-  4   5       4+ 4+  
R  4+  4+  4+  4+  ___- 4+   4-  4   5       4+ 4+  
 
-Sensory:  
Light touch - intact  
Pinprick - impaired C7-T1; L4-S1.  
Cold sensation - intact in ___  
Vibratory sense - impaired toes b/l ___  
Proprioception - intact  
No extinction to DSS.  
 
-DTRs:  
  Bi Tri ___ Pat Ach  
L ___    3    2  
R ___    3    2  
 
Plantar response was extensor bilaterally.  
L foot clonus  
 
-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF. Pt. could not perform HKS bilaterally.  
 
-Gait: Able to stand on own power, however on ambulation drags 
b/l soles of feet, able to dorsiflx feet.  
Romberg present.  

Exam at time of discharge (changes from admission exam only):

UE strength bilaterally, IP 4 b/l, Hamstrings 4+ b/l, TA 4+ b/l, 
Quads, Gastroctnemius, ___ and ___ ___ b/l.  Her gait was 
improved, but remained spastic, with circumduction of RLE.  Her 
toes were upgoing bilaterally.  

Sensory: Decreased pinprick and temp below L4, and vibration 
decreased in toes; joint position sensation normal. 
Cerebellar/associated motor:  Rapid alternating movements, 
finger-to-nose normal.
 
Pertinent Results:
Labs on admission:

___ 06:05AM BLOOD WBC-4.5 RBC-3.96* Hgb-12.3 Hct-36.6 
MCV-92 MCH-31.0 MCHC-33.6 RDW-13.0 Plt ___
___ 05:10AM BLOOD WBC-17.7*# RBC-3.96* Hgb-11.8* Hct-36.1 
MCV-91 MCH-29.7 MCHC-32.6 RDW-13.3 Plt ___
___ 06:05AM BLOOD ESR-4
___ 06:05AM BLOOD Glucose-103 UreaN-14 Creat-0.7 Na-142 
K-4.1 Cl-110* HCO3-23 AnGap-13
___ 05:10AM BLOOD Glucose-137* UreaN-16 Creat-0.7 Na-142 
K-4.1 Cl-110* HCO3-23 AnGap-13
___ 06:05AM BLOOD Calcium-8.6 Phos-4.1 Mg-2.2

MRI C and T spine ___:

EXAM: MRI of the cervical and thoracic spine. 
  
CERVICAL SPINE: 
  
FINDINGS: There is inhomogeneous signal visualized within the 
cervical spinal cord with foci of signal abnormalities at C2-3, 
C4-5 and C7-T1 levels consistent with diagnosis of multiple 
sclerosis with multiple sclerosis plaques. No enhancement is 
seen on the post-gadolinium images. Degenerative changes are 
seen in the cervical spine with mild bulging at C4-5 and C5-6. 
No evidence of high-grade spinal stenosis is seen. 
  
IMPRESSION: Foci of signal abnormalities in cervical spinal cord 
indicative of multiple sclerosis plaques. No enhancing lesions 
are seen. 
  
THORACIC SPINE: 
  
TECHNIQUE: T1, T2 and inversion recovery sagittal and T2 axial 
images of 
thoracic spine were acquired before gadolinium. T1 sagittal and 
axial images were obtained following gadolinium. 
  
FINDINGS: Multiple foci of signal abnormalities are seen within 
the thoracic spinal cord including T5, T7-8, T10 levels 
indicative of diagnosis of multiple sclerosis. Following 
gadolinium administration no enhancing lesions are identified in 
the thoracic region. Mild degenerative disc disease is 
identified. 
  
IMPRESSION: Multiple foci of signal abnormalities within the 
thoracic spinal cord indicative of diagnosis of multiple 
sclerosis. No definite enhancing lesions are seen. 
 
Brief Hospital Course:
The pt is a ___ year-old W w/ hx of relapsing remitting MS who 
presents with worsening leg weakness, blurred vision, fatigue 
and gait instability. Although her blurred vision is unchanged, 
her gait symptosm appear to have progressed over the past 3 
days. Her exam is remarkable for ___ weakness in UMN 
distribution, hyperreflexia b/l, clonus on L and gait consistent 
with IP and TA dysfunction. Her sx appear to be consistent w/ an 
MS exacerbation. It is unclear what is the actual course of her 
dz and her the neuroanatomical basis of her lesions was also 
unknown at time of admission. She does have L spine dz, and her 
exam is consistent w/ both UMN and LMN disease. 

She was admitted for high dose steroid treatment per protocol 
designed by Dr. ___.  1g of Solumedrol x 3 days, then 500mg x 
3 days, then 250mg x3 days.  She was ruled out for infections 
prior to starting of steroids.  She was started on Protonix 40mg 
BID, ISS and Seroquel 50mg HS for possible psychosis (severe 
agitation, flight of ideas, pressured thoughts, irritability 
noted during previous steroid treatments).
She was also treated with KCL 10mEq TID for replacement of 
potential losses.  Her SSRI was held during this time.  
Ibuprofen 600mg Q8H prn was used for pain control.

With this treatment, by HD3, her ___ weakness improved 
significantly and lateralized with slightly greater weakness on 
the L.  Her gait improved significantly (still w/ mildly wide 
base and trace b/l foot drop), as did UEs strength (full).
        
     IP  Quad  Ham   TA  ___  ___  
L    4-    4    4       4     5    4
R    4     4+   4       4     5    4+

MRI of the cervical and thoracic spine, with and without 
gadolinium revealed C2-5, C7-T1 and T5, T7-8, T10 levels of 
plaque lesions without enhancement after gadolinium.  

Her mood remained euthymic until ___ and on ___ did develop 
irritability and labile mood. Patient felt that this could be 
managed with Seroquel 75mg daily for now.  Should she develop 
worsening manic symptoms, the dosage could be increased and her 
outpatient neurologist could be contacted, Dr. ___ at ___, 
as she has had specific regimens for treatment of these symptoms 
in the past.

On day of discharge, her examination was remarkable for intact 
UE strength bilaterally, IP 4 b/l, Hamstrings 4+ b/l, TA 4+ b/l, 
Quads, Gastroctnemius, ___ ___ b/l.  Her gait was improved, but 
remained spastic, with circumduction of RLE.  Her toes were 
upgoing bilaterally.  

She will require a total of 9 days of steroid treatment (see 
above for regimen, day 1 = ___.  She will require continuation 
of PPI BID and ISS for the duration of the treatment, as well as 
Seroquel 75mg QHS, this may be uptightrated.  She may be resumed 
on her home medications, excluding Rebif after completion of her 
 treatment with steroids.  She will require potassium repletion 
to a goal of 4. 
 
Medications on Admission:
- Protonix 40mg daily  
- Rebiff 40micrograms daily (takes sporadically)  
- Lexapro 20mg daily  
- Aleve prn back pain  

 
Discharge Medications:
1. Lab work
Patient will require daily CBC and Chem 10 labs while on 
steroids, KCL and Mg should be repleted prn.
2. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for pain.  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day).  
5. Oxazepam 15 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime) as needed for anxiety.  
6. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for Pain.  
7. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
8. Potassium Chloride 10 mEq Tablet Sustained Release Sig: One 
(1) Tablet Sustained Release PO BID (2 times a day) for 5 days: 
duration of steroid treatment.  
9. Quetiapine 25 mg Tablet Sig: Three (3) Tablet PO QHS (once a 
day (at bedtime)) as needed for sleep.  
10. Insulin Lispro 100 unit/mL Solution Sig: One (1) see flow 
sheet Subcutaneous ASDIR (AS DIRECTED).  
11. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
Mid-line, heparin dependent: Flush with 10 mL Normal Saline 
followed by Heparin as above, daily and PRN per lumen. 
12. Methylprednisolone Sodium Succ 500 mg Recon Soln Sig: Five 
Hundred (500) mg Intravenous once a day for 2 days: Please start 
infusion at 0700hrs on ___. Please infuse over 5 hrs in 500ml 
of D5W.  
13. Methylprednisolone Sodium Succ 500 mg Recon Soln Sig: Two 
Hundred Fifty (250) mg Intravenous once a day for 3 days: Please 
start infusion at 0700hrs on ___. Please infuse over 3hrs in 
250ml of D5W.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Remitting relapsing MS
Secondary: none

 
Discharge Condition:
Improved leg weakness, improved blurred vision.

 
Discharge Instructions:
You were admitted to ___ with worsening weakness in your legs, 
blurred vision.  These were felt to be a manifestation of 
worsening of your multiple sclerosis.  For this you were treated 
with intravenous high dose steroids.  

With this treatment your symptoms improved, your leg strengh 
increased and your gait improved, however not to your baseline.  


The following changes were made to your medications:
- IV steroids as per medication list
- Started on Seroquel 75mg HS for agitation, mood symptoms
- Insulin sliding scale adjusted for you BGs
- Protonix 40mg every 12 hours while on steroids
- Rebif was held during your hospital stay, while on steroids.

You should continue your regular medications as previously 
prescribed once you are discharged from the rehabilitation 
facility.

Should you develop further weakness, difficulties with balance, 
new sensory symptoms, worsening vision, pain on moving your 
eyes, fever, chills, difficulty breathing, rashes or any other 
symptom concerning to you, please call your neurologist or go to 
the emergency room.
 
Followup Instructions:
___